US07875647B2
Step 1: Ethyl 4-chloro-5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-1H-pyrazole-3-carboxylate
To a solution of ethyl 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-1H-pyrazole-3-carboxylate (3.0 g, 7.6 mmol) in acetic acid (30 ml) at room temperature was bubbled chlorine gas for 10 minutes. The reaction mixture was stirred at room temperature for 2 hours and the resulting solution was quenched with water (100 ml). The organic solution was extracted with diethyl ether (100 ml×2). With saturated sodium bicarbonate solution, remained acetic acid was removed and organic phase was evaporated with reduced pressure. The crude residue was purified with silica gel column (hexane/ethyl acetate=5/1) to produce title compound (3.1 g, 95% yield) as white solid.

reactant | ethyl 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-1H-pyrazole-3-carboxylate | 7.6 mmol, 3.0 g | ClC1=CC=C(C=C1)C1=CC(=NN1C1=C(C=C(C=C1)Cl)Cl)C(=O)OCC | C18H13Cl3N2O2
reactant | chlorine | ClCl | Cl2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | Ethyl 4-chloro-5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-1H-pyrazole-3-carboxylate | 3.1 g, 95% yield | ClC=1C(=NN(C1C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl)C(=O)OCC | C18H12Cl4N2O2
